US07071207B2
Preparation of 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-3-methyl-1,5,6,7-tetrahydro-4H-pyrrolo[3,2-c]pyridin-4-one
A solution of 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-5-(2,4-dimethoxybenzyl)-3-methyl-1,5,6,7-tetrahydro-4H-pyrrolo[3,2-c]pyridin-4-one (1.13 g, 2.03 mmol, Table 2, entry 176) in trifluoroacetic acid (40 mL) was heated at reflux temperature for 2 h. Trifluoroacetic acid was removed by evaporation under reduced pressure, and the residue was purified by silica gel chromatography. Elution first with 50% ethyl acetate in hexane followed by ethyl acetate gave a yellow solid (600 mg, 73%). LC-MS m/z (MH+) 405.0, retention time 3.84 min (method 2).

reactant | 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-5-(2,4-dimethoxybenzyl)-3-methyl-1,5,6,7-tetrahydro-4H-pyrrolo[3,2-c]pyridin-4-one | 2.03 mmol, 1.13 g | ClC1=CC=C(C=C1)C1=C(C=2C(N(CCC2N1C1=C(C=C(C=C1)Cl)Cl)CC1=C(C=C(C=C1)OC)OC)=O)C | C29H25Cl3N2O3
solvent | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-3-methyl-1,5,6,7-tetrahydro-4H-pyrrolo[3,2-c]pyridin-4-one | 600 mg, 73% | ClC1=CC=C(C=C1)C1=C(C=2C(NCCC2N1C1=C(C=C(C=C1)Cl)Cl)=O)C | C20H15Cl3N2O
